US07173133B2
rac-2-(4-Fluoro-phenyl)-cyclohexanone
bii) Alternatively, to a solution of rac-2-(4-fluoro-phenyl)-cyclohexanol (7.5 g, 39 mmol) in dry DMSO (67 mL) was added triethylamine (27 mL, 190 mmol) under argon and the resulting mixture cooled to 0° C. and then a solution of sulfur trioxide pyridine complex (18.4 g, 116 mmol) in dry DMSO (98 mL) was added dropwise over 15 min. After 1 h, the mixture was diluted with water (200 mL) and the product extracted with DCM (2×100 mL). The combined organic extracts were then dried over sodium sulfate, followed by filtration and evaporation. Purification by filtration through silica gel, eluting with ethyl acetate:hexane (1:4) afforded the title compound (7.1 g, 95%) as white crystals. MS: m/e=192.1 (M).

reactant | rac-2-(4-fluoro-phenyl)-cyclohexanol | 39 mmol, 7.5 g | FC1=CC=C(C=C1)C1C(CCCC1)O | C12H15FO
reactant | triethylamine | 190 mmol, 27 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 67 mL | CS(=O)C | C2H6OS
solvent | DMSO | 98 mL | CS(=O)C | C2H6OS
solvent | water | 200 mL | O | H2O
product | rac-2-(4-Fluoro-phenyl)-cyclohexanone | 7.1 g, 95% | FC1=CC=C(C=C1)C1C(CCCC1)=O | C12H13FO
